US05698577
(1S,4S,5S)-4-Fluoro-6-(3,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylic benzyl ester
(1S,4R,5S)-6-(3,4-Dimethoxy-benzyl)-7-oxo-4-trifluoromethanesulphonyloxy-2,6-diazabicyclo[3.2.0]heptane-2-carboxylic acid benzyl ester (1.1 g, 2.02 mmol) and tetrabutylammonium fluoride trihydrate (704 mg, 2.23 mmol) were stirred together in 10 ml of tetrahydrofuran at room temperature for 10 min. Thereafter, the solvent was removed in a vacuum, the oily residue was taken up in ethyl acetate and extracted three times with water and once with saturated aqueous sodium chloride solution. The organic phase was dried over magnesium sulphate and concentrated. The residual brown oil was chromatographed over silica gel with ethyl acetate and a pale yellow oil was obtained.

reactant | (1S,4R,5S)-6-(3,4-Dimethoxy-benzyl)-7-oxo-4-trifluoromethanesulphonyloxy-2,6-diazabicyclo[3.2.0]heptane-2-carboxylic acid benzyl ester | 2.02 mmol, 1.1 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2C(N([C@@H]2[C@@H](C1)OS(=O)(=O)C(F)(F)F)CC1=CC(=C(C=C1)OC)OC)=O | C23H23F3N2O8S
reactant | tetrabutylammonium fluoride trihydrate | 2.23 mmol, 704 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1S,4S,5S)-4-Fluoro-6-(3,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylic benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2C(N([C@@H]2[C@H](C1)F)CC1=CC(=C(C=C1)OC)OC)=O | C22H23FN2O5
